US04076812
A solution of 85.9 g of 10-bromo-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine in 500 ml of methanol and 233 ml of normal sodium hydroxide solution is refluxed for 2 hours. The methanol is evaporated off, the concentrated reaction mixture diluted with water and extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The residue is purified by chromatography over 380 g of silica gel with benzene/petroleum ether (1:1) as eluant. The fraction containing pure 10-bromo-5H-dibenz[b,f]azepine are combined and concentrated by evaporation. The residue is crystallised from cyclohexane to yield 10-bromo-5H-dibenz[b,f]azepine which melts at 65°-69° C.

reactant | 10-bromo-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine | 85.9 g | BrC1=CC2=C(N(C3=C1C=CC=C3)C(C(F)(F)F)=O)C=CC=C2 | C16H9BrF3NO
solvent | methanol | 500 ml | CO | CH4O
solvent | sodium hydroxide | 233 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 10-bromo-5H-dibenz[b,f]azepine | BrC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C14H10BrN
